US06894042B2
Methyl 4-hydroxy-3-iodobenzoate (5.56 g, 20 mmol) is combined with trimethylsilylacetylene (3.96 mL, 28 mmol), bis(triphenylphosphine)palladium dichloride (414 mg, 0.6 mmol) and cuprous iodide (57 mg, 0.3 mmol) in THF (20 mL)/CHCl3 (40 mL) in a dry flask, under nitrogen. TEA (8.7 mL, 62.3 mmol) is added and the mixture heated to 50° C. for 4 h. The mixture is diluted with CHCl3 (60 mL), washed with 5% HCl (2×40 mL), dried (MgSO4) and concentrated to a brown solid. The crude material is adsorbed onto silica gel and chromatographed over 200 g silica gel, eluting with 15% EtOAc/hexane (2 L) followed by 20% EtOAc/hexane (1 L). Fractions are combined and concentrated to afford 2.50 g (50%) of methyl 4-hydroxy-3-[(trimethylsilyl)ethynyl]benzoate as a yellow solid. HRMS (FAB) calcd for C13H16O3SI+H: 249.0947, found 249.0955 (M+H)+.

reactant | Methyl 4-hydroxy-3-iodobenzoate | 20 mmol, 5.56 g | OC1=C(C=C(C(=O)OC)C=C1)I | C8H7IO3
reactant | trimethylsilylacetylene | 28 mmol, 3.96 mL | C[Si](C)(C)C#C | C5H10Si
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | 60 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | bis(triphenylphosphine)palladium dichloride | 0.6 mmol, 414 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 4-hydroxy-3-[(trimethylsilyl)ethynyl]benzoate | 2.50 g, 50% | OC1=C(C=C(C(=O)OC)C=C1)C#C[Si](C)(C)C | C13H16O3Si
